US06492355B1
a) 4-(Toluene-4-sulfonylsulfanyl)-piperidine-1-carboxylic acid tert-butyl ester
4-Iodo-piperidine-1-carboxylic acid, tert-butyl ester (1.3 g) and potassium toluene-4-thiosulfonate (1.0 g) were combined in ethanol (10 ml) with cis-dicyclohexane 18-crown-6 (10 mg) and heated under reflux for 12 h. After cooling the reaction mixture was partitioned between ethyl acetate and water, the organic layer was separated, washed with water and brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (eluting with iso-hexane/ethyl acetate 4:1 to 7:3), to yield the subtitle compound as an oil (0.65 g).

reactant | 4-Iodo-piperidine-1-carboxylic acid, tert-butyl ester | 1.3 g | IC1CCN(CC1)C(=O)OC(C)(C)C | C10H18INO2
reactant | potassium toluene-4-thiosulfonate | 1.0 g | C1(=CC=C(C=C1)S(=O)([O-])=S)C.[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(Toluene-4-sulfonylsulfanyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.65 g | C(C)(C)(C)OC(=O)N1CCC(CC1)SS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO4S2
